US06197729B1
d) 4-(1,2,2-trifluoroethyl)cyclohexylamine (starting material for Example A)
At 50° C. and 20 bar hydrogen pressure, 4.7 g of 4-(1,2,2-trifluoroethyl)cyclohexanone were reductively aminated in 100 ml of ammonia-saturated methanol in an autoclave using rhodium on carbon as catalyst. The catalyst was filtered off and the reaction solution was concentrated, giving the title product as a brown oil which was reacted further without any purification.

reactant | hydrogen | [H][H] | H2
reactant | 4-(1,2,2-trifluoroethyl)cyclohexanone | 4.7 g | FC(C(F)F)C1CCC(CC1)=O | C8H11F3O
reactant | ammonia | 100 ml | N | H3N
catalyst | rhodium on carbon | [Rh] | Rh
product | 4-(1,2,2-trifluoroethyl)cyclohexylamine | FC(C(F)F)C1CCC(CC1)N | C8H14F3N
